US06927228B2
(c) tert-Butyl (4′-formyl-2′-methylbiphenyl-3-ylmethyl)-N-methylcarbamate
In a manner similar to that of Example 1(e), by reacting 6.1 g (20.3 mmol) of tert-butyl (3-bromo benzyl)-N-methylcarbamate with 4.3 g (26.2 mmol) of 2-methyl-4-formylbenzene boronic acid, and after purification by chromatography on a column of silica eluted with a heptane/ethyl acetate mixture (8/2), 4 g (58%) of the expected product are obtained in the form of an orange oil.

reactant | tert-butyl (3-bromo benzyl)-N-methylcarbamate | 20.3 mmol, 6.1 g | BrC=1C=C(CN(C(OC(C)(C)C)=O)C)C=CC1 | C13H18BrNO2
reactant | 2-methyl-4-formylbenzene boronic acid | 26.2 mmol, 4.3 g | CC1=C(C=CC(=C1)C=O)B(O)O | C8H9BO3
product | tert-Butyl (4′-formyl-2′-methylbiphenyl-3-ylmethyl)-N-methylcarbamate | C(=O)C1=CC(=C(C=C1)C1=CC(=CC=C1)CN(C(OC(C)(C)C)=O)C)C | C21H25NO3
